* AD8012n SPICE Macro-model
* Description: Amplifier
* Generic Desc: Dual 320 MHz low power op amp
* Developed by: SMR/ADI
* Revision History: 08/10/2012 - Updated to new header style
* 2.0 (02/1998)
* Copyright 1998, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*     distortion is not characterized
*
* Parameters modeled include:
*     closed loop gain and phase vs bandwidth
*     output current and voltage limiting
*     offset voltage (is static, will not vary with vcm)
*     ibias (again, is static, will not vary with vcm)
*     slew rate and step response performance
*     (slew rate is based on 10-90% of step response)
*     current on output will be reflected to the supplies
*     vnoise, referred to the input
*     inoise, referred to the input
*
* END Notes
*
* Node assignments
*                non-inverting input
*                | inverting input
*                | | positive supply
*                | | |  negative supply
*                | | |  |  output
*                | | |  |  |
.SUBCKT AD8012an 1 2 99 50 24

* INPUT STAGE



v1   8 2 0

i1   99 5 108e-6

i2   4 50 108e-6

q1   50 3 5 qp

q2   99 3 4 qn

q3   99 5 8 qn

q4   50 4 8 qp



* input error sources



fn   99  2 vn4 1e-3

ib1  2 99    3e-6

ib2  3 99    3e-6

eos  3 1 poly(1) (32,98) 1.5e-3 1

cs3  98  2     2.3e-12

cs4  98  3     2.3e-12



* first gain stage and dominant pole



fgain 98 12 poly(1) v1 0 1 0 3350

r5   12 98 500k

c4   12 98 2.37e-12

v3   99 13 1.68

v4   14 50 1.68

d3   12 13 dx

d4   14 12 dx



* secondary pole



gpole 98 40 12 98 1

rpole 98 40 1

cpole 98 40 0.34e-9



* v noise generator



vn1 30 98 0.555

dn1 30 31 dn1

rn1 31 98 4.2e-3

vn2 31 98 0



fn1 32 98 vn2 1

rn2 32 98 1



* i noise generation



vn3 33 98 0.555

dn2 33 34 dn1

rn3 34 98 4.2e-3

vn4 34 98 0



fn2 35 98 vn4 1

rn4 35 98 1



* buffer stage



g13 98 17 40 98 1e-2

rbuf 17 98 100



* reference stage



eref1 98 0 poly(2) 99 0 50 0 0 0.5 0.5



* current mirroring on supplies

Ibias 50 99 5.29m



fo3 98 300 vo1 1

vi1 311 98 0

vi2 98 312 0

dm1 300 311 dx

dm2 312 300 dx



* output stage



r15 23 90  2

r16 23 91  2

vo1 23 24  0

vo2 99 90  0

vo3 91 50  0

fo1 0 99 poly(2) vo2 vi1 -6.67e-3 1 -1

fo2 50 0 poly(2) vo3 vi2 -6.67e-3 1 -1

rl  24 98  1e6

g11 23 90  99 17 0.5

g12 23 91  50 17 0.5

v5  19 23  0.275

v6  23 20  0.275

d5  19 17  dx

d6  17 20  dx



* models



.model qn npn()

.model qp pnp()

.model dx  d()

.model dn1 d(af=1 kf=1e-10)

.ends ad8012an






